US05187094
Next, 50 ml of 1 N-NaOH was added to the (S)-N-benzyl-3-butyryloxypyrrolidine obtained above, and hydrolysis was performed while the mixture was heated. The reaction mixture was then extracted three times with 50 ml portions of methylene chloride, and the solvent was removed under reduced pressure to yield 3.31 g of (S)-N-benzyl-3-hydroxypyrrolidine. This crude product was vacuum-distilled at 111° C./2 mm Hg to yield 3.00 g of a colorless oily product. The NMR and IR spectra of this product coincided with those of the reference sample, and the results obtained by elemental analysis agreed well with the calculated values. The specific rotation of this product was [a]D20 -3.79 (c=5, MeOH), and the measurement by HPLC showed that the optical purity was 100% e.e. The specific rotation of the distilled (R)-N-benzyl-3-hydroxypyrrolidine was [a]D20 +3.73° (c=5, MeOH), and the optical purity was 99% e.e.

reactant | NaOH | [OH-].[Na+]
reactant | (S)-N-benzyl-3-butyryloxypyrrolidine | C(C1=CC=CC=C1)N1C[C@H](CC1)OC(CCC)=O | C15H21NO2
product | (S)-N-benzyl-3-hydroxypyrrolidine | 3.31 g | C(C1=CC=CC=C1)N1C[C@H](CC1)O | C11H15NO
